US07858632B2
A mixture of 4-(2,4-Diamino-pyrimidin-5-yloxy)-2-iodo-5-isopropyl-phenol (0.3 g, 0.78 mmol), (2-bromoethoxy)-tert-butyl-dimethyl silane (0.28 g, 1.17 mmol), and K2CO3 (0.22 g, 1.56 mmol) in anhydrous DMF (5 ml) was heated at 50° C. for 16 hrs. Solvent was removed in vacuo. The residue was partitioned between methylene chloride and water. The combined organic extracts was washed with water, dried over Na2SO4, filtered and concentrated. Flash chromatography on silica(3% MeOH in methylene chloride with 0.1% NH4OH) gave 5-[5-Iodo-2-isopropyl-4-(2-trimethylsilanyloxy-ethoxy)-phenoxy]-pyrimidine-2,4-diamine (0.38 g, 90% ) as a solid.

reactant | 4-(2,4-Diamino-pyrimidin-5-yloxy)-2-iodo-5-isopropyl-phenol | 0.78 mmol, 0.3 g | NC1=NC=C(C(=N1)N)OC1=CC(=C(C=C1C(C)C)O)I | C13H15IN4O2
reactant | (2-bromoethoxy)-tert-butyl-dimethyl silane | 1.17 mmol, 0.28 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | K2CO3 | 1.56 mmol, 0.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-[5-Iodo-2-isopropyl-4-(2-trimethylsilanyloxy-ethoxy)-phenoxy]-pyrimidine-2,4-diamine | 0.38 g, 90% | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OCCO[Si](C)(C)C | C18H27IN4O3Si
